US05068053
A mixture of 0.01 mol of 5-methylpyridin-2-yl-acetylene (which can be prepared from 5-methyl-2-bromopyridine by reaction with trimethylsilyl-acetylene and Pd catalyst and subsequent splitting off of the trimethylsilyl group), 0.01 mol of 4-iodo-2,3-difluorophenetole (for the preparation, see Example 9), 30 ml of triethylamine, 0.2 mmol of Pd catalyst and 0.1 mmol of CuI is stirred at room temperature for 24 hours. The reaction mixture is diluted with petroleum ether and filtered over silica gel. Evaporation and purification give 1-(5methylpyridin-2-yl)-2-(2,3-difluoro-4-ethoxyphenyl) acetylene.

reactant | 5-methylpyridin-2-yl-acetylene | 0.01 mol | CC=1C=CC(=NC1)C#C | C8H7N
reactant | 5-methyl-2-bromopyridine | CC=1C=CC(=NC1)Br | C6H6BrN
reactant | trimethylsilyl-acetylene | C[Si](C)(C)C#C | C5H10Si
reactant | 4-iodo-2,3-difluorophenetole | 0.01 mol | IC1=C(C(=C(C=C1)OCC)F)F | C8H7F2IO
catalyst | Pd | [Pd] | Pd
catalyst | Pd | 0.2 mmol | [Pd] | Pd
catalyst | CuI | 0.1 mmol | [Cu]I
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
product | 1-(5methylpyridin-2-yl)-2-(2,3-difluoro-4-ethoxyphenyl) acetylene | CC=1C=CC(=NC1)C#CC1=C(C(=C(C=C1)OCC)F)F | C16H13F2NO
